US05489606
(2R,3R)-3-[(1-Cyanoethyl)thio]-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-2-butanol
134 mg (1.00 mmole) of 2-bromopropionitrile and 69 mg (0.50 mmole) of potassium carbonate were added to a solution of 143 mg (0.50 mmole) of (2R,3R)-2-(2,4-difluorophenyl)-3-mercapto-1-(1H-1,2,4-triazol-1-yl)-2-butanol in 3 ml of dimethylformamide, and the resulting mixture was stirred at room temperature for 1 hour under an atmosphere of nitrogen. The reaction mixture was then dissolved in benzene, and the resulting solution was washed, in turn, with water and with a saturated aqueous solution of sodium chloride. The solvent was then removed by distillation under reduced pressure, after which the resulting oily residue was purified by preparative thin layer chromatography on silica gel, using a 3:2 by volume mixture of ethyl acetate and hexane as the developing solvent, to afford 57 mg of stereoisomer A of the title compound (having the lower polarity) as an oil and 72 mg of stereoisomer B of the title compound (having the higher polarity) as crystals; these crystals were recrystallized from a mixture of benzene and hexane to give a pure specimen melting at 66°-68° C.

reactant | 2-bromopropionitrile | 1.00 mmole, 134 mg | BrC(C#N)C | C3H4BrN
reactant | potassium carbonate | 0.50 mmole, 69 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (2R,3R)-2-(2,4-difluorophenyl)-3-mercapto-1-(1H-1,2,4-triazol-1-yl)-2-butanol | 0.50 mmole, 143 mg | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)S)O | C12H13F2N3OS
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (2R,3R)-3-[(1-Cyanoethyl)thio]-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-2-butanol | C(#N)C(C)S[C@@H]([C@@](CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F)C | C15H16F2N4OS
